US09278931B2
B) N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-3-sulfamoylbenzamide hydrochloride
tert-Butyl(cyclopropylmethyl)(trans-2-{4-[(3-sulfamoylbenzoyl)amino]phenyl}cyclopropyl)carbamate (125.0 mg) was dissolved in 4N hydrochloric acid/ethyl acetate solution (1.25 mL), and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (69.5 mg).

reactant | tert-Butyl(cyclopropylmethyl)(trans-2-{4-[(3-sulfamoylbenzoyl)amino]phenyl}cyclopropyl)carbamate | 125.0 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)S(N)(=O)=O)=O)CC1CC1)=O | C25H31N3O5S
reactant | hydrochloric acid ethyl acetate | 4N, 1.25 mL | Cl.C(C)(=O)OCC
product | N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-3-sulfamoylbenzamide hydrochloride | 69.5 mg | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)S(N)(=O)=O)=O | InChI=1S/C20H23N3O3S.ClH/c21-27(25,26)17-3-1-2-15(10-17)20(24)23-16-8-6-14(7-9-16)18-11-19(18)22-12-13-4-5-13;/h1-3,6-10,13,18-19,22H,4-5,11-12H2,(H,23,24)(H2,21,25,26);1H/t18-,19+;/m0./s1
